US07745490B2
To a solution of 2-methoxy-5-nitroaniline (5 g) in pyridine (25 ml) at 0° C. was added dropwise methanesulfonyl chloride (3.5 ml) then pyridine (0.5 ml). The mixture was left at 0° C. for 1 hour, then brought to RT for 2 h. The mixture was poured onto ice (100 g) and dilute hydrochloric acid (3M, 100 ml), the solid formed was filtered then washed with water to give 2-Methoxy-5-nitro-methanesulfonylaminobenzene (5.2 g, 71%) as an off-white crystalline solid.

reactant | 2-methoxy-5-nitroaniline | 5 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | methanesulfonyl chloride | 3.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 3M, 100 ml | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-5-nitro-methanesulfonylaminobenzene | 5.2 g, 71% | COC1=C(C=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C | C8H10N2O5S
